Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Left lower extremity pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of RLE DVT 
on warfarin ___ year, no hx PE), HTN, T2DM, and adrenal mass who 
is admitted for hyperglycemia.  

Mr ___ presented to ___ on ___ with complaints of 
acute on chronic calf pain. He claimed to have had 6 months of 
cramping calf pain at rest and with walking, which acutely 
worsened on the morning of presentation (although hs been worse 
over the past week). His pain was associated with some mild 
lightheadedness and weakness. The staff at ___ were unable to 
obtain pulses on the LLE and IOS venous thrombosis were 
concerned for arterial insufficiency. LENIS demonstrated 
non-occlusive thrombi in b/l ___ (consistent with prior studies). 
For this reason, he was transferred to ___. Patient was 
initially reluctant, but eventually consented to transfer. 
Notably, INR at ___ was 1.6. (2.0 on arrival to ___. 
 
Mr ___ appears to have poor connection with the medical field. 
He appears to have had a falling out with his previous PCP over 
personality differences. He is unclear of which medications he 
takes. Says he has had "high sugars" for about one year. He 
believes his sugar was high because he hasn't eaten anything in 
two days, and then ate a large bag of M&Ms immediately prior to 
having his blood drawn. Per records, Mr ___ has enlarging 
adrenal mass which has been followed on CT and c/f malignancy 
but for which he has not pursued treatment. He says that he had 
a surgery ___ years ago for the removal of something on his 
adrenal gland. He says doctors have told ___ that it is back and 
that he isn't concerned. He no longer has a PCP. Last INR check 
was about one month ago in ___.  
 ED COURSE:  
 - Initial VS: 0 98.1 99 148/73 18 99% RA  
 - Exam notable for LLE: + distal calf tenderness, neg ___ 
sign. No palpable cords, erythema, edema. Intact strength and 
sensation. + ___, + DP pulses by Doppler. Warm and well perfused. 
RLE: + distal calf tenderness, + proximal thigh tenderness, + 
___ sign. No edema, erythema, palpable cords. Warm and wall 
perfused. + DP, neg ___ pulses by Doppler. Intact strength and 
sensation.  
 - Lab notable for INR 2.0 HCO3 21 Glucose 412  
 - No radiology studies were performed  
 - Patient was given 1000cc NS  
 - Vitals prior to transfer: 98 84 155/76 18 100% RA  
 
REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria.  
 
Past Medical History:
Unknown abdominal surgery for adrenal gland approximately ___ 
years ago
Type 2 Diabetes Mellitus
Right lower extremity DVT (on Coumadin)
 
Social History:
___
Family History:
Unclear if malignancy, thrombotic, or bleeding diathesis run in 
the family. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vital Signs: 75.7kg 98.1 152/76 80 18 97/RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops 2+ rad pulses 
 
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No WWP no b/l proximal calf with TTP. No cords. DP pules by 
Doppler, monophasic. Pain with active/passive ROM in calf with 
ankle flexion/extention. + ___ on right. Neurovascularly 
intact to distal LLE/RLE. Onychomycosis. Sensation preserved to 
b/l feet.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation gait deferred.  

DISCHARGE PHYSICAL EXAM

Vitals:  98.1 | 152/76 | 80 | 18 | 97% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL, neck 
supple
CV: Regular rate and rhythm, normal S1 + S2
Lungs:  Lungs clear bilaterally to auscultation without 
adventitious sounds
Abdomen: Normoactive bowel sounds, Soft, non-tender, 
non-distended (compared to baseline)
Extremities: lower extremities warm and well perfused, trace 
pedal edema
Doppler R: DP: + ___: faint doppler signal
Doppler L: DP: + ___: +
Neuro: CNII-XII intact, ___ upper and lower extremity strength, 
distal lower extremity function grossly preserved

 
Pertinent Results:
HEMATOLOLGY
===========

___ 06:05AM BLOOD WBC-8.2 RBC-5.09 Hgb-15.1 Hct-44.0 MCV-86 
MCH-29.7 MCHC-34.3 RDW-13.5 RDWSD-42.4 Plt ___
___ 06:13PM BLOOD WBC-8.6 RBC-5.04 Hgb-14.6 Hct-43.2 MCV-86 
MCH-29.0 MCHC-33.8 RDW-13.5 RDWSD-41.6 Plt ___
___ 06:13PM BLOOD Neuts-65.9 ___ Monos-5.7 Eos-2.8 
Baso-0.3 Im ___ AbsNeut-5.68 AbsLymp-2.13 AbsMono-0.49 
AbsEos-0.24 AbsBaso-0.03

COUAGULATION
============

___ 06:05AM BLOOD ___ PTT-41.0* ___
___ 06:13PM BLOOD ___ PTT-40.0* ___

ELECTROLYTES
============

___ 06:05AM BLOOD Glucose-258* UreaN-8 Creat-0.7 Na-138 
K-3.9 Cl-102 HCO3-25 AnGap-15
___ 06:13PM BLOOD Glucose-412* UreaN-10 Creat-0.7 Na-135 
K-4.1 Cl-99 HCO3-21* AnGap-19

LIVER FUNCTION TESTS
====================

___ 06:05AM BLOOD ALT-15 AST-9 LD(LDH)-181 AlkPhos-88 
TotBili-0.3
___ 06:05AM BLOOD Albumin-3.5 Calcium-8.9 Phos-3.1 Mg-1.8

LIPIDS
======

___ 06:13PM BLOOD Cholest-235*
___ 06:13PM BLOOD Triglyc-795* HDL-25 CHOL/HD-9.4 
LDLmeas-100

PENDING STUDIES
===============

___ 04:52AM BLOOD %HbA1c-PND
 
Brief Hospital Course:
Mr. ___ is a ___ with PMH significant for presumed type 2 
diabetes, claudication-like symptoms, history of adrenal mass, 
and history of DVT on warfarin who presents to ___ from ___ 
for hyperglycemia and concern for lower extremity arterial 
occlusion.

#PRESUMED TYPE 2 DIABETES MELLITUS
Patient declining all work up and further intervention upon 
admission to the floor. In the morning, patient requesting to be 
discharged or would leave AMA. Patient found to have poorly 
controlled blood sugars on arrival to ___. ___ was 
consulted but patient refusing further intervention or 
medication alterations. He was encouraged to continue to take 
his "sugar pill" from home (patient refusing to do med rec with 
MD staff) and to follow a diabetic diet. He was encouraged to 
follow up with his PCP.

#PAD
Additionally, pulses of both lower extremities were dopplerable. 
He reports claudication-like symptoms with exertion but also 
occasionally occurring at rest. He does not take any medications 
for this issue. At discharge, he was given a prescription for 
cilostazol and recommended to follow up with his primary care 
doctor.

#ADRENAL MASS
In regards to his adrenal mass, he reports that he was recently 
told by a doctor that this mass, which was resected ___ years 
ago, has recurred. He is not interested in further workup or 
treatment of this mass and requesting discharge today.

#HISTORY OF DVT
For his history of DVT, his INR was monitored and he was 
continued on his home warfarin. Encouraged patient to return to 
his PCP on discharge for INR monitoring and follow up. INR on 
the day of discharge was 2.0. Warfarin dose at discharge was 5mg 
daily. Next INR should be checked on ___. 

Patient encouraged to have workup in house for the above issues 
but ultimately declined. He was encouraged to follow up with his 
PCP. Should he be interested in a new PCP, the phone number for 
Healthcare Associates (primary care practice at ___ was 
provided. 

TRANSITIONAL ISSUES:
====================
[] needs PCP appointment early next week (___)
[] Next INR check on ___
[] INR goal ___
[] consider stopping warfarin if patient refusing all medical 
treatment given bleeding risk with unmonitored warfarin use
[] follow up A1c checked during admission
[] recommend diabetes follow up
[] recommend CT abdomen and pelvis with contrast for further 
workup of adrenal mass if patient amenable
[] recommend smoking cessation, patient provided with quit 
instructions and nicotine replacement therapy Rx
[] NEW MEDICATIONS: Cilostazol
[] CHANGED MEDICATIONS: NONE
[] STOPPED MEDICATIONS: NONE

CODE STATUS: presumed Full Code
CONTACT: patient declined to provide contact information
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 5 mg PO EVERY OTHER DAY 
2. Warfarin 2.5 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1. Warfarin 5 mg PO EVERY OTHER DAY 
2. Warfarin 2.5 mg PO EVERY OTHER DAY 
3. Cilostazol 100 mg PO BID claudication 
RX *cilostazol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1
4. Nicotine Patch 21 mg TD DAILY smoking cessation 
RX *nicotine 21 mg/24 hour Apply one patch to arm once a day 
Disp #*28 Patch Refills:*1
5. Nicotine Lozenge 4 mg PO Q2H:PRN cigarette cravings 
RX *nicotine (polacrilex) 4 mg ___ lozenges every 2 hours Disp 
#*60 Lozenge Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Uncontrolled hyperglycemia
Adrenal mass
Lower extremity claudication

SECONDARY DIAGNOSES
===================
Type 2 Diabetes Mellitus
History of DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted because your blood 
sugars were high. This likely reflects that your diabetes is 
poorly controlled. We recommend that you take your medications 
regularly and follow with a primary care doctor. 

We wanted to perform abdominal imaging and an ultrasound of your 
lower extremities while in house but you refused. We are sending 
you home, despite our recommendations that you stay, in 
accordance with your wishes. Should you have any concerning 
symptoms or change your mind about your medical issues, please 
return to the nearest hospital for evaluation. 

Please take your medications as prescribed. We are prescribing 
you a new medication called Cilostazol to see if this helps with 
your leg cramping. We recommend that you follow a diabetic and 
low salt diet. Please make an appointment with your primary care 
doctor for further management of your diabetes and for 
monitoring of your warfarin. It is important to follow with a 
primary care doctor while taking warfarin as this medication can 
be dangerous in the wrong doses. 

We recommend that you quit smoking. Your PCP can help you with 
this. If you are interested in quitting smoking, you can call 
your PCP and check out the QuitWorks website: 
___/

HOW TO QUIT SMOKING:
====================
1. Set a quit date and stick to it.
2. Use one 21 mg patch daily. Remove patch daily and replace 
with new one
3. Use 21 mg patch for ___ weeks with use of nicotine lozenges 
or gum for cravings as needed.
4. After ___ weeks using the 21 mg patch, transition to 14 mg 
patch daily for 2 weeks.
5. After 2 weeks of the 14 mg patch, transition to 7 mg patch 
for 2 weeks.
6. After using the 7 mg patch for 2 weeks you can stop using the 
patches all together.
7. You can continue to use nicotine gum or lozenges as needed 
for cravings throughout this entire process.

Thank you for involving us in your care. Good luck!

Sincerely, 
Your ___ team
 
Followup Instructions:
___